US05102877
A solution of ethyl 4-(allyloxycarbonyl)thiomorpholine-3-carboxylate (15.4 g) in a mixture of 4N aqueous sodium hydroxide (30 ml), methanol (30 ml) and tetrahydrofuran (75 ml) was refluxed for 90 minutes. The organic solvents were evaporated to give an aqueous solution. The aqueous solution was adjusted to pH 2 with concentrated hydrochloric acid, extracted with ethyl acetate (200 ml), dried over magnesium sulfate, and evaporated under reduced pressure to give 4-(allyloxycarbonyl)thiomorpholine-3-carboxylic acid (14.0 g) as a syrup.

reactant | ethyl 4-(allyloxycarbonyl)thiomorpholine-3-carboxylate | 15.4 g | C(C=C)OC(=O)N1C(CSCC1)C(=O)OCC | C11H17NO4S
reactant | methanol | 30 ml | CO | CH4O
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 4N, 30 ml | [OH-].[Na+]
product | 4-(allyloxycarbonyl)thiomorpholine-3-carboxylic acid | 14.0 g | C(C=C)OC(=O)N1C(CSCC1)C(=O)O | C9H13NO4S
